US05529583
Preparation of 1-acetoxy-2-methylnaphthalene.
A solution of 9.48 g (60 mmole) of 2-methyl-1-naphthol and 8.10 g (80 mmole) of triethylamine in 50 mL of ethyl acetate was cooled to below 5° C. in an ice-bath. 5.50 g (70 mmole) of acetyl chloride was added at a rate such that the temperature did not rise about 5° C. The reaction mixture was stirred for an additional one hour, diluted with 50 mL of ethyl acetate, and washed with water then brine. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to give an oily residue. Crystallization in hexane yielded 7.58 g (63% yield) of the title compound with a melting point of 81°-83° C. and an 1HNMR as follows: (300 MHz, DMSO-d6) δ 2.26 ) (s, 3H), 2.48 (s, 3H), 7.42 (d, 1H, J=9 Hz), 7.46-7.55 (m, 2H), 7.47-7.81 (m, 2H), 7.92 (d, 1H, J=9 Hz). The mass spectrum showed a molecular ion at m/z 200.

reactant | 2-methyl-1-naphthol | 60 mmole, 9.48 g | CC1=C(C2=CC=CC=C2C=C1)O | C11H10O
reactant | triethylamine | 80 mmole, 8.10 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 70 mmole, 5.50 g | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-acetoxy-2-methylnaphthalene | 7.58 g, 63% yield | C(C)(=O)OC1=C(C=CC2=CC=CC=C12)C | C13H12O2
